US09371332B2
4-chloro-3-(3-fluorophenyl)-1-(2-imidazol-1-ylethyl)-5-phenyl-pyrazolo[3,4-c]pyridazine (Compound IIs)
Compound IIs was synthesized from 4-chloro-3-(3-fluorophenyl)-5-phenyl-1H-pyrazolo[3,4-c]pyridazine and 2-(1H-imidazol-1-yl)ethanol following the general procedure for the Mitsunobu reaction as described above.

reactant | 4-chloro-3-(3-fluorophenyl)-5-phenyl-1H-pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)NN=C2C2=CC(=CC=C2)F | C17H10ClFN4
reactant | 2-(1H-imidazol-1-yl)ethanol | N1(C=NC=C1)CCO | C5H8N2O
product | 4-chloro-3-(3-fluorophenyl)-1-(2-imidazol-1-ylethyl)-5-phenyl-pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C2=CC(=CC=C2)F)CCN2C=NC=C2 | C22H16ClFN6
